Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
caffeine / epinephrine
 
Attending: ___
 
Chief Complaint:
bicyclist injury over handlebar
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old RHD female presents s/p bicycle accident. She was a
helmeted cyclist in a race earlier today and went over her
handlebars. Patient has no recollection of the event and it is
unclear how or why she fell. She denies any prodromal chest 
pain,
SOB, dizziness. She complains of isolated left shoulder pain.
Denies any pain, numbness, tingling in any other extremities,
pelvis, neck, back.
 
Past Medical History:
Past Medical History:
HLD
Osteoporosis
PCOS
Hypothyroidism
Melanoma - left arm
Basal cell carcinoma - face, legs

Past Surgical History:
Ovarian wedge resection
Melanoma excision
Basal cell excisions
Appendectomy
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Well appearing female in no acute distress.
Left upper extremity:
Significant ecchymosis and swelling over left clavicle
No skin threatening
Sensation intact in axillary, median, ulnar and radial
distributions
Palpable radial pulse
Firing wrist flexors/extensors, finger flexors/extensors,
EPL/FPL/FDI

DISCHARGE PHYSICAL EXAM:
Vitals: afebrile, hemodynamically stable 
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses  
DRE: normal tone, no gross or occult blood  
Ext: Left upper extremity splinted, sensation and motor intact. 
No ___ edema, ___ warm and well perfused  
 
Pertinent Results:
OSH Chest CT ___: left rib fractures ___

Left clavicle ___: Acute, comminuted, displaced fracture mid 
left clavicle.  2 cm inferior displacement of the distal 
fracture fragment.  Soft tissue swelling.

CXR ___: The cardiomediastinal silhouette is unremarkable.  No 
focal consolidation, pulmonary edema, pleural effusion, or 
pneumothorax.  No gross rib fractures. Well contrast is seen in 
the collecting system bilaterally.

___ 11:18AM BLOOD WBC-11.8* RBC-4.21 Hgb-12.6 Hct-39.0 
MCV-93 MCH-29.9 MCHC-32.3 RDW-12.1 RDWSD-40.9 Plt ___
___ 07:20AM BLOOD WBC-5.2 RBC-3.49* Hgb-10.6* Hct-33.4* 
MCV-96 MCH-30.4 MCHC-31.7* RDW-12.2 RDWSD-42.3 Plt ___
___ 07:20AM BLOOD Glucose-82 UreaN-9 Creat-0.7 Na-142 K-4.0 
Cl-108 HCO3-26 AnGap-12
 
Brief Hospital Course:
The patient was admitted to the trauma surgery service after 
suffering a bicycle accident. Her injuries included a left 
clavicle fracture and multiple left rib fractures (___). 
Tertiary exam prior to discharge demonstrated no additional 
injuries. The patient's rib fractures were treated with pain 
control and incentive spirometry was encouraged to maximize her 
respiratory effor. The orthopedic surgeons were consulted for 
the clavicle fracture and found it non-operative. They 
recommended to place her left extremity in a splint and keep it 
non-weight-bearing for two weeks when the patient will follow up 
in orthopedic trauma surgery clinic. The patient subsequently 
tolerated a regular diet, had her pain well controlled with oral 
agents, voided appropriately, and ambulated well prior to 
discharge. 

Of note, there was initially concern upon admission for trace 
pneumoperitoneum on an initial outside read from the CT chest 
scan performed at the outside hospital. Reread of this imaging 
with the radiology team at ___ found no concern for 
pneumoperitoneum. The patient underwent serial abdominal exams 
and her abdominal exam was consistently benign. She was 
hemodynamically stable throughout her stay. 
 
Medications on Admission:
Crestor
Synthroid
Fosamax
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
Take for constipation caused by your pain medication. Hold for 
loose stools.  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 to 6 hours Disp 
#*45 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
Take for constipation caused by your pain medication. Hold for 
loose stools.  
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. left clavicle fracture
2. left rib fractures (___)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the trauma surgery service after suffering 
a bicycle accident. Your injuries included a left clavicle 
fracture and multiple left rib fractures (___). You had no 
other injuries. You were treated with pain control for your rib 
fractures. The orthopedic surgeons did not need to operate on 
your clavicle fracture and put your arm in a splint. Keep your 
arm non-weight-bearing in the sling for two weeks, until you 
follow up with them in clinic. Please follow the following 
additional directions regarding your rib fractures:

* Your injury caused several rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___